US06949542B2
(5-Methoxy-2-nitro-phenyl)-carbamic acid tert-butyl ester
The title compound was prepared via the di-Boc-compound from 5-methoxy-2-nitro-phenylamine [CAS-No. 16133-49-6] (7.73 g, 46 mmol) and Boc2O (20.60 g, 94.3 mmol), followed by treatment with 2 eq. TFA in CH2Cl2 according to the general procedure A (method c). Obtained as a yellow solid (12.234 g).

reactant | 5-methoxy-2-nitro-phenylamine | 46 mmol, 7.73 g | COC=1C=CC(=C(C1)N)[N+](=O)[O-] | C7H8N2O3
reactant | Boc2O | 94.3 mmol, 20.60 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (5-Methoxy-2-nitro-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=CC(=C1)OC)[N+](=O)[O-])=O | C12H16N2O5
